US07365085B2
b) 2-Cyclohexyl-2-phenyl-ethanol
To a stirring solution of 2-cyclohexyl-2-phenyl-acetic acid methyl ester (2.2 g, 0.0094 mole) in THF (20 mL) was added 19 mL of a lithium aluminum hydride solution (1.0 M in THF) at 0° C. The reaction mixture was stirred overnight and 10% KOH (8 mL) was added. The mixture was filtered, and then washed with ether. Ether (60 mL) was added to the filtrate and the ethereal solution was washed with water (50 mL). The ether layer was dried over sodium sulfate, filtered, and concentrated to give 1.86 g (97% yield) of the title compound as an oil. 1H-NMR (400 MHz, CDCl3) δ 7.37-7.15 (m, 5H), 3.97 (t, 1H, J=6.0 Hz), 3.86 (t, 1H, J=9.0 Hz), 2.59 (q, 1H, J=4.0 Hz), 1.96-1.03 (m, 11H). The primary alcohol was used without further purification.

reactant | 2-cyclohexyl-2-phenyl-acetic acid methyl ester | 0.0094 mole, 2.2 g | COC(C(C1=CC=CC=C1)C1CCCCC1)=O | C15H20O2
reactant | lithium aluminum hydride | 1.0 M, 19 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | KOH | 8 mL | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Cyclohexyl-2-phenyl-ethanol | 1.86 g, 97% yield | C1(CCCCC1)C(CO)C1=CC=CC=C1 | C14H20O
